US06559164B1
To a cool solution (10° C.) of THF containing 0.12 g (0.68 mmole) of diethylazodicarboxylate, 0.20 g (0.46 mmole) of 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione (from Step a above), and 0.40 g (1.43 mmole) of dibenzylphosphate was added dropwise 5 ml of a solution containing 0.128 g (0.49 mmole) of triphenylphosphine. The resulting mixture was stirred for 14 hours at 20° C. All solvent was evaporated and the residue was purified by chromatography using silica gel and eluting with a mixture of EtOAc/Hexanes to afford phosphoric acid dibenzyl ester 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester as a brick red solid (mp=105-109° C.).

reactant | THF | 0.68 mmole, 0.12 g | C1CCOC1 | C4H8O
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 0.46 mmole, 0.20 g | OCN1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C23H18N4O5
reactant | dibenzylphosphate | 1.43 mmole, 0.40 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)[O-]
reactant | triphenylphosphine | 0.49 mmole, 0.128 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | phosphoric acid dibenzyl ester 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)=O | C37H31N4O8P
